US05576335
To a solution of N-(4-methoxy-2-nitrophenyl)-3,5-di-t-butyl-4-hydroxybenzamide (1.50 g) in ethanol (10 ml) was added a catalytic amount of 10% palladium/carbon to perform catalytic reduction under a pressure of 1-2.5 arms at room temperature for 5 hrs. After filtering the catalyst and distilling off the solvent, crystallization of the residue from hexane-ethyl acetate afforded N-(2-amino-4-methoxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide (0.79 g, 57%).

reactant | N-(4-methoxy-2-nitrophenyl)-3,5-di-t-butyl-4-hydroxybenzamide | 1.50 g | COC1=CC(=C(C=C1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)[N+](=O)[O-] | C22H28N2O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | N-(2-amino-4-methoxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide | 0.79 g, 57% | NC1=C(C=CC(=C1)OC)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H30N2O3
